US06770662B2
1.8 ml (19 mmol) of phosphorus oxychloride was added to 4 ml of toluene and 8 ml of dimethylformamide at 0° C., followed by stirring for 10 minutes, and 4.0 g (10 mmol) of 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine-N-oxide was added thereto, followed by stirring for 20 minutes. Stirring was carried out at room temperature for 2 hours, and then the reaction solution was poured into ice water to terminate the reaction. The aqueous layer was extracted with ethyl acetate, and then the organic layer was dried over anhydrous sodium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product thus obtained was purified by silica gel column chromatography to obtain 3.57 g (yield 85%) of 4-(2,3,4-trimethoxy-6-methylbenzoyl)-2-chloro-3-trifluoromethyl-5-methoxypyridine (compound No. 123; m.p. 117-119° C.).

reactant | phosphorus oxychloride | 19 mmol, 1.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine-N-oxide | 10 mmol, 4.0 g | COC1=C(C(=O)C2=C(C=[N+](C=C2C(F)(F)F)[O-])OC)C(=CC(=C1OC)OC)C | C18H18F3NO6
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 4-(2,3,4-trimethoxy-6-methylbenzoyl)-2-chloro-3-trifluoromethyl-5-methoxypyridine | 3.57 g, yield 85% | COC1=C(C(=O)C2=C(C(=NC=C2OC)Cl)C(F)(F)F)C(=CC(=C1OC)OC)C | C18H17ClF3NO5
